US07432256B2
a) 3-Fluoro-2-(4-methyl-imidazol-1-yl)-benzonitrile
In analogy to example 5a, 2,3-difluoro-benzonitrile was reacted with 4-methylimidazole and potassium carbonate for 16 h at 90° C. After aqueous workup and crystallization from Ethyl acetate/diisopropylether the title compound was obtained as an off-white solid (yield: 28%). 1H-NMR (300 MHz, DMSO): δ=2.19 (d, J=0.9 Hz, 3H), 7.26 (s with fine splitting, 1H), 7.71-7.89 (m, 1H), 7.86-7.94 (m, 3H)

reactant | 2,3-difluoro-benzonitrile | FC1=C(C#N)C=CC=C1F | C7H3F2N
reactant | 4-methylimidazole | CC=1N=CNC1 | C4H6N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 3-Fluoro-2-(4-methyl-imidazol-1-yl)-benzonitrile | yield: 28% | FC=1C(=C(C#N)C=CC1)N1C=NC(=C1)C | C11H8FN3
